US06720320B2
2-(2′-hydroxystyryl)benzothiazole
Salicylaldehyde (6.1 g) and 2-methylthiazole (7.5 g) were mixed and conc. hydrochloric acid (1.5 ml) was added thereto. The mixture was stirred with heating at 100° C. for 9 hr. The reaction mixture was cooled, and aqueous potassium hydroxide solution was added. The aqueous layer was washed with ether and made acidic with hydrochloric acid and extracted again with ethyl acetate. The organic solvent was dried and concentrated to give the title compound (2.5 g) as pale-yellow crystals, melting point 235-236° C.

reactant | Salicylaldehyde | 6.1 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 2-methylthiazole | 7.5 g | CC=1SC=CN1 | C4H5NS
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | potassium hydroxide | [OH-].[K+]
product | 2-(2′-hydroxystyryl)benzothiazole | 2.5 g | OC1=C(C=CC=2SC3=C(N2)C=CC=C3)C=CC=C1 | C15H11NOS
